US04489003
A mixture of 20.0 g (62.5 mmol) of ethyl 7-chloro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate, 1.0 g (15.4 mmol) of potassium cyanide and 100 ml of propargyl alcohol is stirred at 130° for 40 hours, about 50 ml of solvent being distilled off in vacuo after 16 hours and 50 ml of propargyl alcohol being added to the mixture. The mixture is subsequently evaporated to dryness in vacuo, the residue is taken up in chloroform, the chloroform solution is washed once with water and once with saturated sodium chloride solution and dried over magnesium sulphate. The magnesium sulphate is removed by filtration under suction and the chloroform solution is filtered through silica gel, elution being subsequently carried out with ethyl acetate. After evaporation of the eluate, the residue is recrystallized twice from chloroform/toluene and once from ethanol, there being obtained 2-propynyl 7-chloro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3 -carboxylate of melting point 198°-200°.

reactant | ethyl 7-chloro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate | 62.5 mmol, 20.0 g | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C(=O)OCC)C)=O | C15H14ClN3O3
reactant | potassium cyanide | 15.4 mmol, 1.0 g | [C-]#N.[K+]
solvent | propargyl alcohol | 100 ml | C(C#C)O | C3H4O
product | 2-propynyl 7-chloro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3 -carboxylate | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C(=O)OCC#C)C)=O | C16H12ClN3O3
